US06239131B1
Preparation of (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid
Trifluoroacetic acid (40 ml) was added to a solution of (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea (8 g) in methylene chloride (40 ml), the mixture was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure, a mixed solvent (32 ml) of diisopropyl ether and ethanol (15:1) was added to the residue for crystallization, collected by filtration, to thereby obtain 6.35 g of the title compound (Yield 88%).

reactant | Trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea | 8 g | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OC(C)(C)C)=O | C33H44N4O5
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (R)-(−)-3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]benzoic acid | 6.35 g, Yield 88% | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C29H36N4O5
